US08222416B2
A solution of 2-(1-(3-fluoro-phenyl)-3-methyl-but-1-enyl)-1H-pyrrolo[2,3-b]pyridine (1.2 g, 4.28 mmol) in methanol (35 mL) was treated with 10% palladium on carbon (180 mg). The reaction was stirred at 25° C. under hydrogen atmosphere for 16 h. The reaction mixture was filtered and the filtrate was concentrated in vacuo to afford 2-(1-(3-fluoro-phenyl)-3-methyl-butyl)-1H-pyrrolo[2,3-b]pyridine (1.2 g, 99%) as an off-white solid: 1H NMR (300 MHz, d6-DMSO): 6 ppm 11.59 (s, 1H), 8.08 (dd, 1H, J1=4.8 Hz, J2=1.5 Hz), 7.82-7.79 (m, 1H), 7.37-7.21 (m, 3H), 7.04-6.95 (m, 2H), 6.30 (s, 1H), 4.23 (t, 1H, J=8.1 Hz), 2.11-2.04 (m, 1H), 1.92-1.85 (m, 1H), 1.40-1.35 (m, 1H), 0.91 (s, 3H), 0.89 (s, 3H).

reactant | 2-(1-(3-fluoro-phenyl)-3-methyl-but-1-enyl)-1H-pyrrolo[2,3-b]pyridine | 4.28 mmol, 1.2 g | FC=1C=C(C=CC1)C(=CC(C)C)C1=CC=2C(=NC=CC2)N1 | C18H17FN2
solvent | methanol | 35 mL | CO | CH4O
catalyst | palladium on carbon | 180 mg | [Pd] | Pd
product | 2-(1-(3-fluoro-phenyl)-3-methyl-butyl)-1H-pyrrolo[2,3-b]pyridine | 1.2 g, 99% | FC=1C=C(C=CC1)C(CC(C)C)C1=CC=2C(=NC=CC2)N1 | C18H19FN2
